US06759429B2
Under nitrogen atmosphere, to a solution of 5-methoxyindole-2-carboxylic acid (1.00 g) in Et2O (40 mL) was added LiAlH4 (280 mg) at 0° C., and the mixture was stirred under reflux for 3 hours. The mixture was treated with ethyl acetate, diluted with an aqueous hydrochloric acid solution, and extracted with ethyl acetate. The mixture was concentrated to give a crude alcohol compound (840 mg, 91%), which was dissolved in THF (10 mL), and stirred with MnO2 (4.20 g) at room temperature for 5 hours. The mixture was filtered on celite, and the filtrate was concentrated, and the residue was purified by silica gel column chromatography to give 5-methoxyindole-2-carbaldehyde (300 mg, 36%).

reactant | 5-methoxyindole-2-carboxylic acid | 1.00 g | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
reactant | LiAlH4 | 280 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Et2O | 40 mL | CCOCC | C4H10O
solvent | hydrochloric acid | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 4.20 g | O=[Mn]=O
product | 5-methoxyindole-2-carbaldehyde | 300 mg, 36% | COC=1C=C2C=C(NC2=CC1)C=O | C10H9NO2
